US07557215B2
2,6-Bis-hydroxymethyl-piperidin-1-yl-acetonitrile (S5)
The method follows that of S5. 2,6-piperidinedimethanol (3.80 g, 26.21 mmol), iodoacetonitrile (5.24 g, 31.45 mmol), Et3N (4.38 mL, 31.45 mmol) and dry DMF (20 mL). Purification by flash chromatography using CH2Cl2/CH3OH (9:1) as eluent afforded the title compound as a straw-coloured oil (2.5 g, 53%). FAB MS, m/z(M+H)+ 185.

reactant | 2,6-piperidinedimethanol | 26.21 mmol, 3.80 g | N1C(CCCC1CO)CO | C7H15NO2
reactant | iodoacetonitrile | 31.45 mmol, 5.24 g | ICC#N | C2H2IN
reactant | Et3N | 31.45 mmol, 4.38 mL | CCN(CC)CC | C6H15N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2,6-Bis-hydroxymethyl-piperidin-1-yl-acetonitrile | 2.5 g, 53% | OCC1N(C(CCC1)CO)CC#N | C9H16N2O2
